US08426408B2
(+/−)-(1R,2S,3R,4S)-3-aminobicyclo[2.2.1]heptane-2-carboxamide
A solution of (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide (707 mg, 4.65 mmol) in methanol (23 ml) was evacuated and purged with nitrogen and treated with palladium on carbon (74.2 mg, 0.070 mmol). The resulting suspension was evacuated and purged with a hydrogen balloon and stirred under the hydrogen overnight. The mixture was filtered through celite, washed with methanol, and dried to afford the title compound.

reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | 4.65 mmol, 707 mg | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
solvent | methanol | 23 ml | CO | CH4O
catalyst | palladium on carbon | 0.070 mmol, 74.2 mg | [Pd] | Pd
product | (+/−)-(1R,2S,3R,4S)-3-aminobicyclo[2.2.1]heptane-2-carboxamide | N[C@H]1[C@H]([C@@H]2CC[C@H]1C2)C(=O)N | C8H14N2O
